US08044069B2
bis(4-fluorophenyl)(piperidin-4-yl)methanol
The above bis(4-fluorophenyl)(pyridin-4-yl)methanol (0.73 g, 2.45 mmol) was hydrogenated (60 pounds per square inch) in the presence of platinum oxide (0.1 g) catalyst in acetic acid (15 mL) for 6 hours at room temperature. The reaction mixture was filtered and concentrated. The concentrated filtrate was diluted with ice/water (20 mL) and neutralized with 10% aqueous sodium carbonate. The title product was collected by filtration. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.46-7.54 (m, 4H), 7.051-7.13 (m, 4H), 5.35-5.45 (bs, 1H), 2.87-2.97 (d, J=6.2 Hz, 2H), 2.45-2.56 (m, 3H), 1.24-1.38 (m, 2H), 1.16-1.22 (m, 2H); MS (DCI/NH3) m/z 304 (M+H)+.

reactant | bis(4-fluorophenyl)(pyridin-4-yl)methanol | 2.45 mmol, 0.73 g | FC1=CC=C(C=C1)C(O)(C1=CC=NC=C1)C1=CC=C(C=C1)F | C18H13F2NO
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.1 g | [Pt]=O
product | bis(4-fluorophenyl)(piperidin-4-yl)methanol | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
